US06358974B1
N-tert-Butyloxycarbonyl-4,4-dimethyl-6-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline
A mixture of 4,4-dimethyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (25.5 g, 0.0988 mol), di-tert-butyl dicarbonate (22.15 g, 0.101 mol), triethylamine (15.48 ml, 0.111 mol), water (56 ml) and tetrahydrofuran (176 ml) were stirred at room temperature for 2 hours. The mixture was concentrated to approximately 50 ml in vacuo and partitioned between dichloromethane (500 ml) and water (500 ml). The organic layer was dried (Na2SO4) and evaporated in vacuo. The residue was dissolved in dichloromethane (250 ml), triethylamine (21 ml, 0.151 mol) added, stirred and cooled to 5° C. and trifluoromethane sulfonic anhydride (23 ml, 0.136mol) added at such a rate so that the temperature remained below 10° C. One complete addition the mixture was allowed to warm to room temperature and stirred for 20 hours. The reaction mixture was partitioned between dichloromethane and saturated sodium hydrogen carbonate (250 ml). The aqueous layer was further extracted with dichloromethane (3×100 ml). Combined organics were washed with water (250 ml), brine (250 ml), dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica gel (500 g) using 0-10% ethyl acetate in hexane gradient elution to afford the title compound as a yellow oil (40 g, 99%).

reactant | 4,4-dimethyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 0.0988 mol, 25.5 g | Br.CC1(CNCC2=CC=C(C=C12)O)C
reactant | di-tert-butyl dicarbonate | 0.101 mol, 22.15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.111 mol, 15.48 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.151 mol, 21 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonic anhydride | 0.136mol, 23 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | tetrahydrofuran | 176 ml | O1CCCC1 | C4H8O
solvent | water | 56 ml | O | H2O
product | N-tert-Butyloxycarbonyl-4,4-dimethyl-6-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline | 40 g, 99% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)(C)C)OS(=O)(=O)C(F)(F)F | C17H22F3NO5S
